US06103738
(a) 3-(o-Bromobenzyloxy)4-methoxybenzonitrile
To a solution of 2-bromobenzyl alcohol (16.50 g, 88.2 mmol) in DMF (100 ml) was added sodium hydride (60% dispersion in mineral oil, 2.94 g, 73.5 mmol) and this was followed by 3-fluoro-4-methoxybenzonitrile (8.88 g, 58.8 mmol) and the resulting mixture was heated to 90° C. for 2 h under N2. After cooling, the mixture was partitioned between ether and H2O, the organic layer washed sequentially with 0.5N HCl and saturated brine and then dried over MgSO4. Trituration with ether/pentane (1/, v/v) afforded the subtitle compound as an off-white solid (13.35 g, 71%). Rf 0.27 (hexane/EtOAc 5/1, v/v). MS m/z 318, 320 (MH+).

reactant | 2-bromobenzyl alcohol | 88.2 mmol, 16.50 g | BrC1=C(CO)C=CC=C1 | C7H7BrO
reactant | sodium hydride | 73.5 mmol, 2.94 g | [H-].[Na+]
reactant | 3-fluoro-4-methoxybenzonitrile | 58.8 mmol, 8.88 g | FC=1C=C(C#N)C=CC1OC | C8H6FNO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-(o-Bromobenzyloxy)4-methoxybenzonitrile | 13.35 g, 71% | BrC1=C(COC=2C=C(C#N)C=CC2OC)C=CC=C1 | C15H12BrNO2
